US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 24)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 3,5-dimethyl-4-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-pyrrole-2-carbaldehyde (64.6 mg, 0.26 mmol) and piperidine (3 drops) in ethanol was stirred at room temperature under nitrogen for 2 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 65 mg (51%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 13.18 (br s, 1H, NH), 11.61 (br s, 1H, NH), 9.13 (br s, 1H), 8.26 (s, 1H), 7.70 (dd, J=2.4 & 6.9 Hz, 1H), 7.31-7.42 (m, 3H), 3.25 (m, 4H, 2×CH2), 2.63 (t, J=7.5 Hz, 2H, CH2), 2.35 (m, 2H, CH2), 2.31 (s, 3H, CH3), 2.12 (s, 3H, CH3), 1.76 (m, 4H, 2×CH2). MS 509 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3,5-dimethyl-4-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 64.6 mg | CC1=C(NC(=C1CCC(N1CCCC1)=O)C)C=O | C14H20N2O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(3-oxo-3-pyrrolidin-1-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 65 mg, 51% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)CCC(N2CCCC2)=O)C)=O | C26H26ClFN6O2
